US06455725B1
2-Carboxymethyl-5-chloroindan-1-one
108 g of methyl 4-chloro-2-(3-methoxy-3-oxo-1-propenyl)-benzoate are dissolved in 300 ml of methanol, and 80 g of sodium methoxide are then added. The mixture is then heated at 70° C. and some of the methanol is distilled off, such that the reaction mixture can still be stirred. After 2 h, 400 ml of toluene are added slowly, and the remaining methanol is removed. The mixture is then stirred for another 0.5 h and then cooled to room temperature. 10 g of acetic acid are then added dropwise to the mixture, which is then diluted with 500 ml of water and adjusted to pH 4-5 using 1 N hydrochloric acid. The toluene phase is concentrated until the product precipitates. Following filtration, the product can be recrystallized from hexane. This gives 93.5 g of 2-carboxymethyl-5-chloroindan-1-one.

reactant | methyl 4-chloro-2-(3-methoxy-3-oxo-1-propenyl)-benzoate | 108 g | ClC1=CC(=C(C(=O)OC)C=C1)C=CC(=O)OC | C12H11ClO4
reactant | sodium methoxide | 80 g | C[O-].[Na+]
reactant | methanol | 300 ml | CO | CH4O
product | 2-Carboxymethyl-5-chloroindan-1-one | C(=O)(O)CC1C(C2=CC=C(C=C2C1)Cl)=O | C11H9ClO3
